US07563905B2
To a hot solution of 2-thiophencarboxylic acid hydrazide (5.0 g, 35 mmol) in acetonitrile (80 mL) was added neat benzyl isothiocyanate (4.7 mL, 35 mmol) via syringe. When the solvent started to boil, the reaction vessel was removed from the heat source and allowed to cool to room temperature. The resulting crystals were collected by vacuum filtration, washed with diethyl ether and air-dried to yield N-benzyl-2-(thien-2-ylcarbonyl)hydrazinecarbothioamide (9.11 g; 89%; (M+H)+−292.2).

reactant | 2-thiophencarboxylic acid hydrazide | 35 mmol, 5.0 g | S1C(=CC=C1)C(=O)NN | C5H6N2OS
reactant | benzyl isothiocyanate | 35 mmol, 4.7 mL | C(C1=CC=CC=C1)N=C=S | C8H7NS
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | N-benzyl-2-(thien-2-ylcarbonyl)hydrazinecarbothioamide | 9.11 g, 89% | C(C1=CC=CC=C1)NC(=S)NNC(=O)C=1SC=CC1 | C13H13N3OS2
